US04808581
5-Propyl-1H-imidazole-4-carboxaldehyde
A mixture of 5-propyl-1H-imidazole-4-methanol (4.0 g) and manganese (IV) oxide (10.0 g) in 1,4-dioxan (150 ml) was heated at reflux under nitrogen for 1 h. The hot suspension was filtered (Hyflo), washed with hot 1,4-dioxan (100 ml) and evaporated to give the title compound (2.9 g) as a solid, m.p. 120°-124°.

reactant | 5-propyl-1H-imidazole-4-methanol | 4.0 g | C(CC)C1=C(N=CN1)CO | C7H12N2O
solvent | 1,4-dioxan | 150 ml | O1CCOCC1 | C4H8O2
catalyst | manganese (IV) oxide | 10.0 g | [O-2].[Mn+4].[O-2]
product | 5-Propyl-1H-imidazole-4-carboxaldehyde | 2.9 g | C(CC)C1=C(N=CN1)C=O | C7H10N2O
